US07820699B2
40.4 Using general procedure A with THF as solvent (3S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-3-carboxylic acid ethyl ester hydrochloride was reacted with 2-bromo-[2-fluoro-4-(2-oxopyridin-1-yl)-phenyl]-acetamide to give (3S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl-carbamoyl]-methyl}-pyrrolidine-3-carboxylic acid ethyl ester. Light brown solid. MS 547.2 [M+H+].

reactant | (3S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-3-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)[C@H]1CNC[C@@H]1NC(=O)C=1SC(=CC1)Cl
reactant | 2-bromo-[2-fluoro-4-(2-oxopyridin-1-yl)-phenyl]-acetamide | BrC(C(=O)N)C1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C13H10BrFN2O2
solvent | THF | C1CCOC1 | C4H8O
product | (3S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl-carbamoyl]-methyl}-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(C[C@@H]1NC(=O)C=1SC(=CC1)Cl)CC(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C25H24ClFN4O5S
